US20010047027A1
Step a. diphenylmethanone N-[2-(methylsulfanyl)phenyl]hydrazone
1-[2-(Methylsulfanyl)phenyl]hydrazine hydrochloride (30 g, 148 mmol) was dissolved in 300 ml dimethylformamide and benzophenone imine (26.7 g, 148 mmol) was added dropwise over 5 min. The mixture was stirred for 1 hour and 300 ml ether and 300 mL of water were added. The layers were separated and the organic layer washed twice with brine. The organic layer was dried with sodium sulfate and the solvent removed. The residue with triturated with hexane to obtain 38.5 g of title compound (containing 18 % benzophenone).

reactant | 1-[2-(Methylsulfanyl)phenyl]hydrazine hydrochloride | 148 mmol, 30 g | Cl.CSC1=C(C=CC=C1)NN
reactant | benzophenone imine | 148 mmol, 26.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | water | 300 mL | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | diphenylmethanone N-[2-(methylsulfanyl)phenyl]hydrazone | 38.5 g, 18 % | CSC1=C(C=CC=C1)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H18N2S
